US05175301
In 50 ml of EtOH was dissolved 3.3 g of 1,1-bis(methylthio)-2-nitroethylene and 2.2 ml of a 40% aqueous solution of dimethylamine was added dropwise in 2 portions at 30-minute intervals under refluxing. After completion of dropwise addition, the mixture was further refluxed for 30 minutes. Then, the EtOH was distilled off and the residue was subjected to silica gel column chromatography using CHCl3 --MeOH (20:1) as an eluent. The procedure gave 1.0 g of 1-dimethylamino-1-methylthio-2-nitroethylene as a yellow oil.

reactant | 1,1-bis(methylthio)-2-nitroethylene | 3.3 g | CSC(=C[N+](=O)[O-])SC | C4H7NO2S2
reactant | dimethylamine | CNC | C2H7N
solvent | EtOH | 50 ml | CCO | C2H6O
product | 1-dimethylamino-1-methylthio-2-nitroethylene | 1.0 g | CN(C(=C[N+](=O)[O-])SC)C | C5H10N2O2S
